* tb_su_fast_ramp.spice — 12 V/us BVDD ramp, overshoot measurement

.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
.param cpoly_area = 1e-16
.param cp = 'cpoly_area * w * l'
c0 r0 sub 'cp/2'
c1 r1 sub 'cp/2'
.ends sky130_fd_pr__model__parasitic__res_po
.lib '../sky130.lib.spice' tt

.include 'design.cir'
.include '../01_pass_device/design.cir'
.include '../00_error_amp/design.cir'
.include '../02_feedback_network/design.cir'
.include '../03_compensation/design.cir'

* Fast ramp: 0 -> 10.5V at 12 V/us = 0.875us
Vbvdd bvdd gnd PWL(0 0 0.875u 10.5 200u 10.5)
Vref vref gnd 1.226
Ibias pvdd ibias DC 1u

Xstartup bvdd pvdd gate gnd vref startup_done ea_en startup
Xerramp vref vfb gate pvdd gnd ibias ea_en error_amp
Xpass gate bvdd pvdd pass_device
Xfb pvdd vfb gnd feedback_network
Xcomp gate pvdd gnd compensation
Cout pvdd gnd 1n

.ic V(pvdd)=0 V(gate)=0 V(bvdd)=0
.option gmin=1e-10 abstol=1e-12 reltol=1e-3 itl1=500 itl4=500
.tran 0.01u 200u uic

.meas tran pvdd_max max V(pvdd)
.meas tran pvdd_at_100u find V(pvdd) at=100u

.control
run
set wr_vecnames
wrdata tb_su_fast_data.txt V(bvdd) V(pvdd) V(gate) V(ea_en)

let pvdd_peak = vecmax(V(pvdd))
let overshoot_mV = (pvdd_peak - 5.0) * 1000
if overshoot_mV < 0
  let overshoot_mV = 0
end

echo works_fast_ramp: 1
echo "Fast ramp PVDD peak: $&pvdd_peak V"
echo "Fast ramp overshoot: $&overshoot_mV mV"

.endc
.end
